### PR TITLE
Discrete comprehension categories and split type categories

### PR DESCRIPTION
**Pull request by fizruk**
The idea is to show equivalence of comprehension categories and split type categories (at type-level and then at level of categories).

- [x] Define discrete comprehension category;
- [x] Construct a map from split type categories to discrete comprehension categories;
- [x] Construct a map from discrete comprehension categories to split type categories;
- [x] Construct an equivalence of types;
- [ ] Define category of split type categories (already defined, but perhaps we want another formulation);
- [ ] Define category of discrete comprehension categories;
- [ ] Construct an equivalence of categories.

### CODE REVIEW

File: TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v [hunk 1]
```diff
@@ -0,0 +1,690 @@
...
+    apply isapropiscontr.
+  Defined.
+
+  (* TODO: move upstream? *)
+  Definition discrete_fibration_mor
+             {C : category}
+             {D : disp_cat C}
+             (is_discrete_fibration_D : is_discrete_fibration D) {c c'}
+             (f : c' --> c) (d : D c) (d' : D c')
+    : (d' -->[f] d) = (pr1 (pr1 (pr1 is_discrete_fibration_D c c' f d)) = d').
```
Comment (benediktahrens) [inline TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v:143]: I think you should put an equivalence here, not =.

Also, using such an identity to construct another identity (in `ololo` below) will make reasoning about terms using `ololo` very difficult.

File: TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v [hunk 2]
```diff
@@ -0,0 +1,690 @@
...
+  Proof.
+    apply univalenceweq.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v:145]: Unnecessary use of univalence.

File: TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v [hunk 3]
```diff
@@ -0,0 +1,690 @@
...
+          simpl.
+          apply maponpaths_2.
+          etrans. apply pathsinv0, id_left.
+          apply maponpaths_2.
+
+          apply pathsinv0.
+          etrans. apply maponpaths, maponpaths, maponpaths, maponpaths, maponpaths.
+          apply pathsinv0r. simpl.
+          apply idpath.
+    Defined.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v:508]: Can this be `Qed.`'d?

File: TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v [hunk 4]
```diff
@@ -0,0 +1,690 @@
...
+
+    Lemma ololo
+          (DC : discrete_comprehension_cat_structure C)
+      : pr1 (discrete_comprehension_cat_structure_from_split_typecat_structure
+          (split_typecat_structure_from_discrete_comprehension_cat_structure DC))
+          = pr1 DC.
+    Proof.
+      set (D := pr1 DC).
+      set (is_discrete_fibration_D := pr1 (pr2 DC)).
+      use total2_paths_f. 2: apply isaprop_disp_cat_axioms.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v:528]: The fact that here propositions arise is a sign that we need to reshuffle the components of the tuples.

File: TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v [hunk 5]
```diff
@@ -0,0 +1,690 @@
...
+      use total2_paths_f.
+      2: apply isaprop_disp_id_comp_of_discrete_fibration; apply is_discrete_fibration_D.
```
Comment (benediktahrens) [inline TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v:530]: As above: the fact that here propositions arise is a sign that we need to reshuffle the components of the tuples.

File: TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v [hunk 6]
```diff
@@ -0,0 +1,1075 @@
...
+
+    Definition is_split_typecat_from_discrete_comprehension_cat_structure_default_mor
+      : is_split_typecat typecat_structure_from_discrete_comprehension_cat_structure_default_mor.
+    Proof.
+      repeat use make_dirprod.
+      - apply D_ob_isaset.
+      - use tpair.
+        + apply (@id_disp _ D).
+        + intros Γ A. cbn.
+          (* STUCK *)
```
Comment (fizruk) [inline TypeTheory/ALV2/SplitTypeCat_ComprehensionCat.v:666]: For some reason, I have a problem completing this proof.
